US04117019
A solution of 70 parts of o-xylyl chloride and 390 parts of benzene is added to a mixture of 135 parts of 85% strength by weight phosphoric acid, 270 parts of 85% strength by weight sulfuric acid and 10 parts of p-toluenesulfonic acid at from 75° to 80° C, whilst stirring thoroughly. After a further 4 hours at from 75° to 80° C the organic phase is separated off and 81 parts (89% of theory) of o-benzyltoluene (nD25 : 1.5739) are isolated by distillation at from 98° to 100° C at 0.2 mm Hg.

reactant | o-xylyl chloride | CC1=CC=CC=C1CCl | C8H9Cl
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | o-benzyltoluene | 89% | C(C1=CC=CC=C1)C1=C(C=CC=C1)C | C14H14
